US06861424B2
To a solution of 2-carboxy-7-chloro-4-mercaptoquinoline HCl salt (75 mg, 0.31 mmol) in DMF (3 mL) was added Mel (0.0425 mL, 2.5 eq.) and cesium carbonate (340 mg, 3.5 eq.). The resulting reaction mixture was stirred at 70° C. overnight. The reaction mixture was diluted with ethyl acetate and washed with water, brine, and dried over sodium sulfate. The solvent was evaporated. Flash column chromatograpgy with 1%-2% MeOH in methylene chloride afforded 2-(methoxycarbonyl)-7-chloro-4-methylthioquinoline (40 mg). To 2-(methoxycarbonyl)-7-chloro-4-methylthioquinoline (40 mg) was added THF:H2O (2:1, 2 mL) and LiOH (10 mg, 1.5 eq.). The reaction mixture was stirred for 2 hours. The pH was adjusted to pH 4.5 with 1 N HCl. Extraction with ethyl acetate, washing with brine, drying over sodium sulfate and evaporation gave 2-carboxy-7-chloro-4-methylthioquinoline (29 mg). To a solution of 2-carboxy-7-chloro-4-methylthioquinoline (29 mg) in THF (6 mL) and DMF (1 mL) was added 4-ethoxycarbonyl-1-(1-amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine (46 mg, 1.1 eq.), EDCI (28 mg, 1.2 eq.), and HOBt (18 mg, 1.1 eq.). The resulting reaction mixture was stirred at ambient temperature overnight. The reaction mixture was evaporated in vacuo to afford a crude product, which was dissolved in ethyl acetate, washed with saturated NaHCO3, 1M NaHSO4 and brine. The organic layer was evaporated. Flash column chromatography with 1%-3% MeOH in CH2Cl2 afforded the product, 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-7-chloro-4-(methylthio)quinoline (36 mg). The product (32 mg) was treated with TFA:CH2Cl2 (1:1, 1 mL) at ambient temperature for 2 hours. The solvents were then evaporated to afford the desired product, 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-7-chloro-4-(methylthio)quinoline; NMR (CDCl3) 1.35 (t, 3), 2.10 (m, 1), 2.25 (m, 1), 2.55 (m, 2), 2.7 (s, 3), 3.4-3.9 (m, 8), 4.2 (q, 2), 5.3 (m, 1), 7.55 (d, 1), 7.9 (s, 1), 8.02 (d, 1), 8.15 (s, 1) ppm.

reactant | 2-carboxy-7-chloro-4-mercaptoquinoline HCl salt | 0.31 mmol, 75 mg | Cl.C(=O)(O)C1=NC2=CC(=CC=C2C(=C1)S)Cl
reactant | cesium carbonate | 340 mg, 3.5 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(methoxycarbonyl)-7-chloro-4-methylthioquinoline | 40 mg | COC(=O)C1=NC2=CC(=CC=C2C(=C1)SC)Cl | C12H10ClNO2S
